* C:\Users\fgewi\Documents\Fynn\Projekte\Balloon\GitHub\SpiCy-BEXUS\motherboard\Hardware\Calculations\nmos_inrush_current_limiter.asc
V1 N001 0 30V
C1 BuckCap N004 10.1µ
R§ESR1 N002 BuckCap 2m
Rbat N001 N002 1p
R§ESR2 N002 N003 2m
C2 N003 N004 10.1µ
C3 gate 0 10µ
R1 N002 gate 51k
R2 gate 0 100k
M1 N004 gate 0 0 IRLHS6342
R3 N002 N004 1k
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\fgewi\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1 startup
.backanno
.end
